US06498154B1
6-Bromo-1-(4-methoxy-benzyl)-4,4-dimethyl-3,4-dihydro-1H-quinolin-2-one.
To a solution of 6-bromo-4,4-dimethyl-3,4-dihydro-1H-quinolin-2-one (0.5 g, 1.97 mmol) in THF (25 mL) was added 60% NaH (0.12 g, 2.95 mmol) suspended in mineral oil. The resulting reaction mixture was stirred at room temperature for 30 min., 4-methoxybenzyl chloride (0.34 g, 2.17) added, and heated under reflux for 20 h. The reaction was cooled to room temperature then quenched slowly with water. After extraction with ethyl acetate, the organic layer was dried (MgSO4), evaporated and the residue purified by chromatography (SiO2 3:7 ethyl acetate/hexane). The white crystalline product was obtained (0.35 g, 48%); mp 118-119° C., 1H NMR (DMSO-d6) δ 1.23 (s, 6H), 2.59 (s, 2H), 3.70 (s, 3H), 3.72 (s, 1H), 4.41 (d, 1H, J=5.86 Hz), 5.09 (s, 1H), 6.87 (m, 2H), 7.01 (d, 1H, J=8.78 Hz), 7.17 (d, 1H, J=8.98 Hz), 7.23 (d, 1H, J=8.79), 7.34 (dd, 1H, J=6.59 and 2.2 Hz), 7.43(d, 1H, J=2.2 Hz); MS (APCI (+)) [M+H]+=374/376.

reactant | 6-bromo-4,4-dimethyl-3,4-dihydro-1H-quinolin-2-one | 1.97 mmol, 0.5 g | BrC=1C=C2C(CC(NC2=CC1)=O)(C)C | C11H12BrNO
reactant | NaH | 2.95 mmol, 0.12 g | [H-].[Na+]
reactant | 4-methoxybenzyl chloride | 0.34 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 6-Bromo-1-(4-methoxy-benzyl)-4,4-dimethyl-3,4-dihydro-1H-quinolin-2-one | BrC=1C=C2C(CC(N(C2=CC1)CC1=CC=C(C=C1)OC)=O)(C)C | C19H20BrNO2
